US05705499
a) 2-Chloro-5,11-dihydro-11-ethyl-8-[2-(3-fluorophenyl)ethen-1-yl]-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one
By a procedure analogous to that described in Example 1h, 2-chloro-5,11-dihydro-11-ethyl-8-iodo-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one was coupled with 3-fluorostyrene in the presence of bis(triphenylphosphine)palladium(II) chloride and triethylamine. The product was hydrogenated by a procedure analogous to that described in Example 15 to give 16 mg of the title compound, m.p. 130°-131° C. (ethyl acetate/hexanes).

reactant | 2-chloro-5,11-dihydro-11-ethyl-8-iodo-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | ClC=1C=CC=2N(C(C3=C(N(C2N1)CC)N=CC(=C3)I)=O)C | C14H12ClIN4O
reactant | 3-fluorostyrene | FC=1C=C(C=C)C=CC1 | C8H7F
catalyst | bis(triphenylphosphine)palladium(II) chloride | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2-Chloro-5,11-dihydro-11-ethyl-8-[2-(3-fluorophenyl)ethen-1-yl]-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | 16 mg | ClC=1C=CC=2N(C(C3=C(N(C2N1)CC)N=CC(=C3)C=CC3=CC(=CC=C3)F)=O)C | C22H18ClFN4O
